US07947692B2
A suspension of the trifluoroacetic acid salt of 4-amino-piperidine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide (1.82 g, 4.30 mmol) in methanol was treated with N,N-diisopropylethylamine (1.5 mL, 6.50 mmol), 4-fluoro-3-(trifluoromethyl)benzaldehyde (1.3 mL, 6.50 mmol) and toluene. The resulting mixture was stirred at 25° C. for 1 h and was then concentrated in vacuo. This procedure was repeated until the reaction mixture became homogenous when dissolved in toluene. After the final concentration to remove toluene, the reaction mixture was diluted with dichloroethane (100 mL) and then was treated with acetic acid (0.26 g) and sodium triacetoxyborohydride (2.73 g, 13 mmol). The resulting reaction mixture was allowed to stir at 25° C. overnight. At this time, the reaction mixture was poured into water and extracted into ethyl acetate. The organics were washed with a saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, gradient elution 1:1 ethyl acetate/hexanes) afforded a colorless oil. The oil was dissolved in diethyl ether and then was concentrated in vacuo to afford 4-(4-fluoro-3-trifluoromethyl-benzylamino)-piperidine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide (530 mg, 25%) as a white, foamy solid; ES-HRMS m/e calcd for C20H20F4N6O2S (M+H)+ 485.1378, found 485.1378.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-amino-piperidine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 4.30 mmol, 1.82 g | COC=1C2=C(N=CN1)SC(=N2)NC(=O)N2CCC(CC2)N | C12H16N6O2S
reactant | N,N-diisopropylethylamine | 6.50 mmol, 1.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-fluoro-3-(trifluoromethyl)benzaldehyde | 6.50 mmol, 1.3 mL | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | sodium triacetoxyborohydride | 13 mmol, 2.73 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | acetic acid | 0.26 g | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-fluoro-3-trifluoromethyl-benzylamino)-piperidine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 530 mg, 25% | COC=1C2=C(N=CN1)SC(=N2)NC(=O)N2CCC(CC2)NCC2=CC(=C(C=C2)F)C(F)(F)F | C20H20F4N6O2S
